data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_191174_0,[C:1](/[C:4](=[C:2](\[N:3]([H:7])[H:8])[N:6]=[C:5]([H:10])[H:11])[H:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([H:9])[C:2]([N:3]([H:7])[H:8])=[N:6][C:5]1([H:10])[H:11])([H:12])([H:13])[H:14],31.599645000010668
MR_549494_0,[C:1]1([C:5]([C:2]([N:6]([H:14])[H:15])([O:9][H:10])[H:12])=[C:7]([H:19])[H:20])([H:11])[C:3]([C:4]([H:16])([H:17])[H:18])([H:13])[O:8]1>>[C:1]([C:3]([C:4]([H:16])([H:17])[H:18])([C:5]([C:2]([N:6]([H:14])[H:15])([O:9][H:10])[H:12])=[C:7]([H:19])[H:20])[H:13])(=[O:8])[H:11],54.22541249999256
MR_213873_0,[C:1]([O:7][C:4](=[C:5]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])[N:6]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:5]([C:2]([H:13])([H:14])[H:18])([C:3]([H:15])([H:16])[H:17])[C:4]([N:6]([H:8])[H:9])=[O:7])([H:10])([H:11])[H:12],60.67422999997604
MR_317598_1,[C:1](/[C:3]([C:2]([N:4]([H:10])[H:11])=[O:8])=[N:7]\[H:16])([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:9]>>[C:1](/[C:3]([C:2]([N:4]([H:10])[H:11])([N:6]([H:14])[H:15])[O:8][H:12])=[N:7]\[H:16])(=[N:5]\[H:13])[H:9],60.330987500022246
MR_228292_0,[C:1]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:8](=[C:6](/[C:4]([H:20])([H:21])[H:22])[N:7]([H:11])[H:12])[H:13])[H:10]>>[C:1]1([C:3]([H:17])([H:18])[H:19])([H:10])[C:6]([C:4]([H:20])([H:21])[H:22])([N:7]([H:11])[H:12])[C:8]1([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[H:13],70.05661000000785
MR_91895_1,[C:1]1([O:6][C:4]([C:3]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([H:8])[C:2]([H:9])([H:10])[O:7]1>>[C@:1]1([O:6][C:4]([C:3]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([H:8])[C:2]([H:9])([H:10])[O:7]1,69.46675999999897
MR_425826_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:5]([C:3]([H:18])([H:19])[H:20])[H:10])([N:7]([H:11])[H:12])/[N:9]=[C:6](\[C:4]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14]>>[C:1](\[C:2]([H:15])([H:16])[H:17])([N:7]([H:11])[H:12])=[N:9]/[C:6]([C:4]([H:21])([H:22])[H:23])([N:5]([C:3]([H:18])([H:19])[H:20])[H:10])[N:8]([H:13])[H:14],47.26267250002252
MR_279932_0,[C:1](/[N:8]=[N:7]/[C:3](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])[N:5]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:8]1[C:4]([C:2]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[C:3]([N:5]([H:9])[H:10])=[N:7]1)([H:13])([H:14])[H:15],33.67102250002432
MR_639693_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4](=[C:6]([H:18])[H:19])[O:7][C:2]([H:12])([H:13])[H:14])([N:5]([H:10])[H:11])[O:8][H:9]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:10])[H:11])=[C:6]([H:18])[H:19])([O:7][C:2]([H:12])([H:13])[H:14])[O:8][H:9],62.66968000003871
MR_627551_1,[C:1]([C:3]([N:2]([O:6][C:4](=[O:7])[H:9])[H:8])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C@:3]1([C:5]([C:4](=[O:7])[H:9])([H:13])[H:14])[N:2]([H:8])[O:6]1)([H:10])([H:11])[H:12],62.91126749999947
MR_701724_0,[C@:1]1([N:3]([N:5]([H:9])[H:10])[H:6])([H:8])[C:2]([H:11])([H:12])[N:4]1[H:7]>>[C:1](\[C:2]([N:3]([N:5]([H:9])[H:10])[H:6])([H:11])[H:12])(=[N:4]\[H:7])[H:8],65.41499249999163
MR_573183_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:5]/[C:4](=[N:6]\[H:8])[H:9])=[O:7])([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[O:5])[O:7]/[C:4](=[N:6]\[H:8])[H:9])([H:10])[H:11],32.53524750000267
MR_490081_0,[C:1]([C:2]([O:6][C:4]([C:3]([H:15])([H:16])[H:17])([C:5](=[O:9])[H:14])[O:8][H:10])([H:12])[H:13])(=[O:7])[H:11]>>[C:1]([C:2]([O:6][C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([H:12])[H:13])([C:5](=[O:9])[H:14])([O:7][H:10])[H:11],45.93613749998312
MR_56164_0,[C:1]([C:4]([N:3](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]/[O:6][H:9])[H:10])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]([N:7](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:3]/[H:10])[O:6][H:9])=[O:8])([H:11])([H:12])[H:13],45.83385500002734
MR_331330_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([O:6][H:9])=[N:7]/[O:5][H:8])([N:4]([H:11])[H:12])[H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3](/[O:6][H:9])[N:7]([O:5][H:8])[H:10])[N:4]([H:11])[H:12],64.5829274999879
MR_60024_0,[C:1](/[C:3]([N:2]([N:7]=[C:5]([H:14])[H:15])[H:8])=[N:6]\[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[N:2]\[H:8])[N:6]([N:4]([H:9])[H:10])[N:7][C:5]([H:14])[H:15])([H:11])([H:12])[H:13],65.81031749999227
MR_183526_0,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:5]([O:6][C:3]([O:7][H:9])=[O:8])[H:10])([H:11])([H:12])[H:16]>>[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])([C:3]([O:7][H:9])=[O:8])[C:5](=[O:6])[H:10])([H:11])([H:12])[H:16],63.15034500000223
MR_31026_0,[C:1](/[C:3]([C:2]([O:5][H:8])=[O:7])=[C:4](\[O:6][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:2]([O:5][H:8])[O:7][C@@:4]1([O:6][H:9])[H:10])([H:11])([H:12])[H:13],48.08344250001909
MR_72030_0,[C:1](/[C:4](=[C:3](/[C:5]([C:2]([H:14])([H:15])[H:16])=[O:8])[O:6][H:9])[O:7][H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([O:7][H:10])[C:3]([O:6][H:9])=[C:5]([C:2]([H:14])([H:15])[H:16])[O:8]1)([H:11])([H:12])[H:13],54.57430249996776
MR_383691_1,[C:1]1([O:6][H:7])([H:9])[C:4](/[C:3](=[N:2]/[H:8])[H:10])([H:11])[O:5]1>>[C:1]1([O:6][H:7])([H:9])[C:4]([H:11])=[C:3]([H:10])[N:2]([H:8])[O:5]1,70.78262749999396
